US05187156
To a solution of HCl.H-Gln-D-Trp(CHO)-Phe-OBzl (0.33 g) and sodium formate (0.35 g) in formic acid (21 ml) was added dropwise Ac2O (7 ml) under ice-cooling. The mixture was stirred for three and half an hour at room temperature. Water (10 ml) was added to the mixture and then evaporated. To the residue, water was added and evaporated. The residue was pulverized with water, filtered. The solids were dissolved in DMF and reprecipitated with ethyl acetate, filtered and dried to give HCO-Gln-D-Trp(CHO)-Phe-OBzl (0.27 g).

reactant | HCl | Cl | ClH
reactant | H-Gln-D-Trp(CHO)-Phe-OBzl | 0.33 g | N[C@@H](CCC(N)=O)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C33H35N5O6
reactant | sodium formate | 0.35 g | C(=O)[O-].[Na+]
reactant | Ac2O | 7 ml | CC(=O)OC(=O)C | C4H6O3
solvent | formic acid | 21 ml | C(=O)O | CH2O2
solvent | Water | 10 ml | O | H2O
product | HCO-Gln-D-Trp(CHO)-Phe-OBzl | 0.27 g | C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C34H35N5O7
